US07018988B2
(2S,4EZ)-N-[2-(diethylamino)ethyl]-4-(ethoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid, and N1,N1-diethyl-1,2-ethanediamine the title compound was obtained in 70% purity by LC/MS. MS(ESI+): m/z=271.0.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(ethoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOCC)C(=O)O | C12H20N2O5
reactant | N1,N1-diethyl-1,2-ethanediamine | C(C)N(CCN)CC | C6H16N2
product | (2S,4EZ)-N-[2-(diethylamino)ethyl]-4-(ethoxyimino)-2-pyrrolidinecarboxamide | C(C)N(CCNC(=O)[C@H]1NCC(C1)=NOCC)CC | C13H26N4O2
